US07897607B2
1-(2,4-Dimethylbenzyl)-3-methyl-5-nitropyridin-2(1H)-one
To a solution containing 0.20 g (1.3 mmol) of 3-methyl-5-nitropyridine-2(1H)-one in 5 ml of N,N-dimethylformamide under a nitrogen atmosphere was added 0.037 g (1.6 mmol) of sodium hydride followed by 0.31 g (1.6 mmol) of 1-bromomethyl-2,4-dimethylbenzene. The reaction was allowed to stir at room temperature for 30 min., quenched with water and extracted with ethyl acetate. The organic phase was dried over magnesium sulfate. Filtration, removal of solvent and purification of the residue via biotage eluting with 25% ethyl acetate/hexanes gave 0.12 g (34%) of compound.

reactant | 3-methyl-5-nitropyridine-2(1H)-one | 1.3 mmol, 0.20 g | CC=1C(NC=C(C1)[N+](=O)[O-])=O | C6H6N2O3
reactant | sodium hydride | 1.6 mmol, 0.037 g | [H-].[Na+]
reactant | 1-bromomethyl-2,4-dimethylbenzene | 1.6 mmol, 0.31 g | BrCC1=C(C=C(C=C1)C)C | C9H11Br
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-(2,4-Dimethylbenzyl)-3-methyl-5-nitropyridin-2(1H)-one | 0.12 g, 34% | CC1=C(CN2C(C(=CC(=C2)[N+](=O)[O-])C)=O)C=CC(=C1)C | C15H16N2O3
